US04410520
A solution of 3-amino-2,3,4,5-tetrahydro-1H[1]benzazepin-2-one (4.0 g), 2-t-butyloxycarbonyloxyimino-2-phenylacetonitrile (6.1 g) and triethylamine (5 ml) in water (20 ml) and dioxane (25 ml) was stirred at room temperature for 18 hours. The resulting solid was filtered off and washed with water. Recrystallization from ethyl acetate gave 3-t-butyloxycarbonylamino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, m.p. 199°-201°.

reactant | 3-amino-2,3,4,5-tetrahydro-1H[1]benzazepin-2-one | 4.0 g | NC1C(NC2=C(CC1)C=CC=C2)=O | C10H12N2O
reactant | 2-t-butyloxycarbonyloxyimino-2-phenylacetonitrile | 6.1 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | water | 20 ml | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-t-butyloxycarbonylamino-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C)(C)(C)OC(=O)NC1C(NC2=C(CC1)C=CC=C2)=O | C15H20N2O3
